US08455479B2
To a solution of (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluoro-phenyl)butanoic acid (80 mg, 0.26 mmol) in dry DCM (15 mL), was added HOBT (42 mg, 0.31 mmol); EDC (60 mg, 0.31 mmol) and DIPEA (0.21 mL, 1.21 mmol) and the reaction mixture was stirred for 10 min. 5,6-Dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester trifluoroacetate (98 mg, 0.26 mmol) in DCM (5 mL) was added and the reaction was stirred at r.t. overnight under nitrogen atmosphere. After the completion of the reaction, as confirmed by TLC, the crude product was extracted with DCM (10 mL) and washed with 10% HCl solution (10 mL) and saturated sodium bicarbonate solution (10 mL) sequentially. The organic layer was separated, washed with water, dried over Na2SO4 and concentrated in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 3:7 EtOAc:Pet.Ether) to afford (R)-5-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester (105 mg, 77%) as a viscous oil.

reactant | (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluoro-phenyl)butanoic acid | 0.26 mmol, 80 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
reactant | HOBT | 0.31 mmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.31 mmol, 60 mg
reactant | DIPEA | 1.21 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5,6-Dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester trifluoroacetate | 0.26 mmol, 98 mg | FC(C(=O)O)(F)F.C(C)OC(=O)C=1N=CN2C3=C(CNCC12)C=CC=C3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester | 105 mg, 77% | C(C)OC(=O)C=1N=CN2C3=C(CN(CC12)C(C[C@@H](CC1=C(C=C(C(=C1)F)F)F)NC(=O)OC(C)(C)C)=O)C=CC=C3 | C29H31F3N4O5
